US06787534B2
6-Ethoxycarbonylamino-1-methylisoquinoline
To 6-ethoxycarbonylamino-1-methyl-3,4-dihydroisoquinoline were added p-cymene (100 ml) and palladium-carbon (0.9 g), followed by heating under stirring at 195° C. in nitrogen atmosphere for 1 hour. After filtering off the catalyst, the reaction mixture was washed with ethanol and a part of the filtrate was evaporated. The residue was extracted with 1N hydrochloric acid, and then basified with potassium carbonate, followed by extracting with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give the title compound (0.629 g, 69%, 2 steps) as pale yellow crystals.

reactant | 6-ethoxycarbonylamino-1-methyl-3,4-dihydroisoquinoline | C(C)OC(=O)NC=1C=C2CCN=C(C2=CC1)C | C13H16N2O2
catalyst | palladium-carbon | 0.9 g | [C].[Pd]
solvent | p-cymene | 100 ml | CC=1C=CC(=CC1)C(C)C | C10H14
product | 6-Ethoxycarbonylamino-1-methylisoquinoline | 0.629 g, 69% | C(C)OC(=O)NC=1C=C2C=CN=C(C2=CC1)C | C13H14N2O2
